US08871767B2
N-[5-[6-(2-fluorophenyl)imidazo[1,2-a]pyridin-2-yl]-2-(trifluoromethyl)phenyl]-2,2-dimethyl-propanamide
An 8 mL vial is charged with N-[5-(6-bromoimidazo[1,2-a]pyridin-2-yl)-2-(trifluoromethyl)phenyl]-2,2-dimethyl-propanamide (0.044 g, 0.11 mol), (2-fluorophenyl)boronic acid (Combi-Blocks, 28 mg, 0.2 mmol), Na2CO3 (0.032 g, 0.3 mmol), bis(triphenylphosphine)palladium(II) dichloride (7 mg, 0.01 mmol) and isopropanol-water (1 mL, 3:1). The reaction mixture is stirred at 80° C. for 16 hr, then cooled, concentrated, taken into EtOAc and CH2Cl2 (1:1), filtered, concentrated onto celite and purified by silica gel chromatography (0-100% EtOAc in Hexanes) to give the title compound (25.4 mg, 55% yield). LCMS m/z=456.5 [M+H]+, tR=2.69 min. (compound same as Example 83)

reactant | N-[5-(6-bromoimidazo[1,2-a]pyridin-2-yl)-2-(trifluoromethyl)phenyl]-2,2-dimethyl-propanamide | 0.11 mol, 0.044 g | BrC=1C=CC=2N(C1)C=C(N2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C(F)(F)F | C19H17BrF3N3O
reactant | (2-fluorophenyl)boronic acid | 0.2 mmol, 28 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | Na2CO3 | 0.3 mmol, 0.032 g | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.01 mmol, 7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | isopropanol water | 1 mL | C(C)(C)O.O
product | N-[5-[6-(2-fluorophenyl)imidazo[1,2-a]pyridin-2-yl]-2-(trifluoromethyl)phenyl]-2,2-dimethyl-propanamide | 25.4 mg, 55% yield | FC1=C(C=CC=C1)C=1C=CC=2N(C1)C=C(N2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C(F)(F)F | C25H21F4N3O
